US06620811B2
6-[(2R,6S)-2,6-Dimethyl-morpholin-4-yl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide
From 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide with cesium carbonate and cis-2,6-dimethyl-morpholine in NMP. ES-MS m/e (%): 506 (M+Na+, 31), 484 (M+H+, 100).

reactant | 6-chloro-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | ClC1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C18H17ClN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cis-2,6-dimethyl-morpholine | C[C@@H]1CNC[C@@H](O1)C | C6H13NO
solvent | NMP | CN1CCCC1=O | C5H9NO
product | 6-[(2R,6S)-2,6-Dimethyl-morpholin-4-yl]-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-nicotinamide | C[C@@H]1CN(C[C@@H](O1)C)C1=NC=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=C1 | C24H29N5O4S
